US03982007
2-(2-chlorophenyl)-3-(5-nitro-2-furyl)acrolein
4.0 g of 1-(2-chlorophenyl)-2-methoxyethylene are added dropwise within 20 minutes to 9.55 g of 5-nitrofurfurol in 12 cc of dry benzene at room temperature after the addition of one drop of diethyl ether/trifluoroborane. The mixture is stirred at 35°-40° for 1 hour and is then successively washed with a 5% aqueous sodium acetate solution and water, the benzene solution is dried over magnesium sulphate and concentrated by evaporation. The residue is taken up in 3 cc of concentrated hydrochloric acid, 17 cc of water and 120 cc of glacial acetic acid, and the mixture is stirred at 80°-85° for 3 hours. The mixture is concentrated in a vacuum, and, after cooling, the title compound is obtained as yellow crystals having a M.P. of 148°-151°.

reactant | 1-(2-chlorophenyl)-2-methoxyethylene | 4.0 g | ClC1=C(C=CC=C1)C=COC | C9H9ClO
reactant | 5-nitrofurfurol | [N+](=O)([O-])C1=CC=C(CO)O1 | C5H5NO4
solvent | benzene | 12 cc | C1=CC=CC=C1 | C6H6
catalyst | diethyl ether trifluoroborane | one drop | C(C)OCC.FB(F)F
product | 2-(2-chlorophenyl)-3-(5-nitro-2-furyl)acrolein | ClC1=C(C=CC=C1)C(C=O)=CC=1OC(=CC1)[N+](=O)[O-] | C13H8ClNO4
